US05229379
A solution of 1.86 g of 3-(p-chlorobenzylamino)propyl(n-butyl)phosphinic acid ethyl ester in 30 ml of semi-concentrated hyrochloric acid is heated under reflux overnight, a clear solution forming after only 10 minutes. The solution is then cooled to 0°, whereupon a white precipitate forms. The precipitate is filtered off, washed with water and dried under reduced pressure at 60°. Recrystallisation from water and drying yield 3-(p-chlorobenzylamino)propyl(n-butyl)phosphinic acid hydrochloride having a melting point of 212°-214°.

reactant | 3-(p-chlorobenzylamino)propyl(n-butyl)phosphinic acid ethyl ester | 1.86 g | C(C)OP(=O)(CCCC)CCCNCC1=CC=C(C=C1)Cl | C16H27ClNO2P
solvent | hyrochloric acid | 30 ml | Cl | ClH
product | 3-(p-chlorobenzylamino)propyl(n-butyl)phosphinic acid hydrochloride | Cl.ClC1=CC=C(CNCCCP(O)(=O)CCCC)C=C1 | InChI=1S/C14H23ClNO2P.ClH/c1-2-3-10-19(17,18)11-4-9-16-12-13-5-7-14(15)8-6-13;/h5-8,16H,2-4,9-12H2,1H3,(H,17,18);1H
